US09302991B2
<Step-4>:(2-fluoro-3-(trifluoromethoxy)phenyl)methanamine hydrochloride
A mixture of 1-(azidomethyl)-2-fluoro-3-(trifluoromethoxy)benzene (0.81 g, 3.46 mmol, Step-3), palladium 10% on carbon (0.20 g), 4M hydrochloric acid ethyl acetate solution (4 mL), and methanol (20 mL) is stirred at room temperature under hydrogen atmosphere (1 atm). After filtration through a pad of celite, the filtrate is concentrated under reduced pressure. The residue is crystallized from ether and diisopropyl ether to give 0.85 g (>99% yield) of the title compound as a white solid.

reactant | 1-(azidomethyl)-2-fluoro-3-(trifluoromethoxy)benzene | 3.46 mmol, 0.81 g | N(=[N+]=[N-])CC1=C(C(=CC=C1)OC(F)(F)F)F | C8H5F4N3O
reactant | hydrochloric acid ethyl acetate | 4M, 4 mL | C(C)OC(C)=O.Cl
catalyst | palladium | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | (2-fluoro-3-(trifluoromethoxy)phenyl)methanamine hydrochloride | 0.85 g, >99% yield | Cl.FC1=C(C=CC=C1OC(F)(F)F)CN | InChI=1S/C8H7F4NO.ClH/c9-7-5(4-13)2-1-3-6(7)14-8(10,11)12;/h1-3H,4,13H2;1H
